US04699992
First a solution of 12.9 g of methyl 3-dimethylaminoacrylate in 25 ml of dioxane is added dropwise, and then 10.5 g of triethylamine are added to a solution of 22.75 g of 2,4-dichloro-5-fluorobenzoyl chloride in 80 ml of anhydrous dioxane, while cooling in ice and stirring. The mixture is stirred at room temperature for 3 hours, heated at 50°-60° C. for 1 hour, and the solvent is removed by distillation in vacuo and the residue is taken up in methylene chloride/H2O. The phases are separated, and the aqueous solution is again extracted with methylene chloride. The combined organic phases are washed with water, dried with sodium sulphate, and the methylene chloride is removed in vacuo. The crystalline residue is recrystallized from methanol/water. 28.5 g of methyl 3-dimethylamino-2-(2,4-dichloro-5-fluorobenzoyl)acrylate of melting point 107°-109° C. are obtained.

reactant | methyl 3-dimethylaminoacrylate | 12.9 g | CN(C=CC(=O)OC)C | C6H11NO2
reactant | triethylamine | 10.5 g | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloro-5-fluorobenzoyl chloride | 22.75 g | ClC1=C(C(=O)Cl)C=C(C(=C1)Cl)F | C7H2Cl3FO
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | methyl 3-dimethylamino-2-(2,4-dichloro-5-fluorobenzoyl)acrylate | 28.5 g | CN(C=C(C(=O)OC)C(C1=C(C=C(C(=C1)F)Cl)Cl)=O)C | C13H12Cl2FNO3
